*TB_LELO_MODELE - 2D DC Sweep with body bias VSB=0.3V
*VB=-0.3V, VS=0V => VSB=0.3V
*Nested sweep: VDS outer loop, VGS inner (both relative to VS)
*-----------------------------------------------------------------
* Include
*-----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_MODELE_lpe.spi
#else
.include ../../../work/xsch/LELO_MODELE.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* INDEPENDENT SOURCES
* VS=0 (source at GND), VB=-0.3V (body/bulk)
* VGS, VDS are differential relative to VS
*-----------------------------------------------------------------
VSrc  VS   0    dc 0
VBody VB   0    dc -0.3
VGS   VG   VS   dc 0
VDS   VD   VS   dc 0

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*-----------------------------------------------------------------
* NESTED DC SWEEP (VDS outer, VGS inner)
* VDS 0.1V to 1.8V in 0.01V steps (171 points)
* VGS 0V to 1.8V in 0.01V steps (181 points per VDS)
* Total: ~30951 points
*-----------------------------------------------------------------
.dc VDS 0.1 1.8 0.01 VGS 0 1.8 0.01

*-----------------------------------------------------------------
* SAVE DATA
*-----------------------------------------------------------------
.save all
.save v(VG) v(VD) v(VS) v(VB) i(VDS)

*-----------------------------------------------------------------
* NGSPICE control
*-----------------------------------------------------------------
.control
set num_threads=20
unset askquit
set filetype=ascii
set hcopydevtype=postscript

run
write {cicname}.raw

quit
.endc

.end
